US05559234
Preparation of 1-{[o-(Cyclopropylcarbonyl)phenyl]sulfamoyl}-3-(4,6-dichloro-2-pyrimidinyl)urea
2-Amino-4,6-dichloropyrimidine (6.15 g, 0.0375 mol) is added portionwise to a solution of chlorosulfonyl isocyanate (5.30 g, 0.0375 mol) in methylene chloride at 0° C. The resulting mixture is stirred at 0° to 2° C. for two hours and a solution of o-aminophenyl cyclopropyl ketone (6.04 g, 0.0375 mol) and triethylamine (3.8 g, 0.0406 mol) in methylene chloride is slowly added to the mixture. The resulting solution is stirred at room temperature overnight, washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain the title product as a yellow solid (14.3 g, 75% real by HPLC analysis, 68% yield) which is used as a starting material for Example 2 without purification. A portion of the yellow solid is purified to yield the title product, mp 114°-116° C.

reactant | 2-Amino-4,6-dichloropyrimidine | 0.0375 mol, 6.15 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | chlorosulfonyl isocyanate | 0.0375 mol, 5.30 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | o-aminophenyl cyclopropyl ketone | 0.0375 mol, 6.04 g | C1(CC1)C(=O)C1=C(C=CC=C1)N | C10H11NO
reactant | triethylamine | 0.0406 mol, 3.8 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-{[o-(Cyclopropylcarbonyl)phenyl]sulfamoyl}-3-(4,6-dichloro-2-pyrimidinyl)urea | 14.3 g, 68% yield | C1(CC1)C(=O)C1=C(C=CC=C1)NS(=O)(=O)NC(=O)NC1=NC(=CC(=N1)Cl)Cl | C15H13Cl2N5O4S
